US04766133
3.39 g of 2-[[(3-methyl-2-pyridyl)methyl]sulphinyl]-5-(trifluoromethyl)benzimidazole are dissolved in 50 ml of tetrahydrofuran and treated with 0.77 g of cysteamine. 40 ml of 3N hydrochloric acid are added at an internal temperature of 40°. After stirring at 40° for 10 minutes and at room temperature overnight the mixture is evaporated in vacuo. The residue is crystallized from tert.butyl methyl ether/ether. There is obtained 2-[[(2-aminoethyl)dithio]methyl]-3 -methyl-1-[5-(trifluoromethyl)-2-benzimidazolyl1pyridinium chloride of melting point 95°-100°.

reactant | 2-[[(3-methyl-2-pyridyl)methyl]sulphinyl]-5-(trifluoromethyl)benzimidazole | 3.39 g | CC=1C(=NC=CC1)CS(=O)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F | C15H12F3N3OS
reactant | cysteamine | 0.77 g | NCCS | C2H7NS
reactant | hydrochloric acid | 3N, 40 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[[(2-aminoethyl)dithio]methyl]-3 -methyl-1-[5-(trifluoromethyl)-2-benzimidazolyl1pyridinium chloride | [Cl-].NCCSSCC1=[N+](C=CC=C1C)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F | InChI=1S/C17H18F3N4S2.ClH/c1-11-3-2-7-24(15(11)10-26-25-8-6-21)16-22-13-5-4-12(17(18,19)20)9-14(13)23-16;/h2-5,7,9H,6,8,10,21H2,1H3,(H,22,23);1H/q+1;/p-1
